US08293735B2
2-(2-Chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-2,7-diaza-spiro[3.5]nonane-7-carboxylic acid tert-butyl ester
Prepared according to the method used in the preparation of 2-chloro-6-[(S)-1-(hexahydro-pyrrolo[1,2-d]pyrazin-2-yl)methyl]-4-morpholin-4-yl-thieno[3,2-d]pyrimidine using 2,7-diaza-spiro[3.5]nonane-7-carboxylic acid tert-butyl ester hydrochloride in place of (S)-octahydro-pyrrolo[1,2-a]pyrazine. The title compound was obtained as a tan solid (209 mg, 84%).

reactant | 2-chloro-6-[(S)-1-(hexahydro-pyrrolo[1,2-d]pyrazin-2-yl)methyl]-4-morpholin-4-yl-thieno[3,2-d]pyrimidine | ClC=1N=C(C2=C(N1)C=C(S2)CN2CCN1[C@H](C2)CCC1)N1CCOCC1 | C18H24ClN5OS
reactant | 2,7-diaza-spiro[3.5]nonane-7-carboxylic acid tert-butyl ester hydrochloride | Cl.C(C)(C)(C)OC(=O)N1CCC2(CNC2)CC1
product | 2-(2-Chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-2,7-diaza-spiro[3.5]nonane-7-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC2(CN(C2)CC2=CC=3N=C(N=C(C3S2)N2CCOCC2)Cl)CC1 | C23H32ClN5O3S
